US06465700B1
2-phenyl-7-napthylindene is prepared in like manner from 2-phenyl-7-chloroindene (see Example I(a)) and naphthyl magnesium bromide.

reactant | 2-phenyl-7-chloroindene | C1(=CC=CC=C1)C=1CC2=C(C=CC=C2C1)Cl | C15H11Cl
reactant | naphthyl magnesium bromide | C1(=CC=CC2=CC=CC=C12)[Mg]Br
product | 2-phenyl-7-napthylindene | C1(=CC=CC=C1)C=1CC2=C(C=CC=C2C1)C1=CC=CC2=CC=CC=C12 | C25H18
